US07129238B2
In analogy to example 106.2, 4-formyl-3-(2,2,2-trifluoro-ethoxy)-benzonitrile was reacted with hydroxylamine hydrochloride and sodium acetate in ethanol to give 4-(hydroxyimino-methyl)-3-(2,2,2-trifluoro-ethoxy)-benzonitrile as a yellow solid.

reactant | 4-formyl-3-(2,2,2-trifluoro-ethoxy)-benzonitrile | C(=O)C1=C(C=C(C#N)C=C1)OCC(F)(F)F | C10H6F3NO2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(hydroxyimino-methyl)-3-(2,2,2-trifluoro-ethoxy)-benzonitrile | ON=CC1=C(C=C(C#N)C=C1)OCC(F)(F)F | C10H7F3N2O2
